US09238631B2
i) 4-[4-(3-Fluoropropyl)benzyl]-L-glutamic acid
Di-tert-butyl N-(tert-butoxycarbonyl)-4-[4-(3-fluoropropyl)benzyl]glutamate (50 mg, 0.10 mmol) was dissolved in 3 ml trifluoroacetic acid and stirred at room temperature for 1d. Then, 5 ml toluene were added and the solution was concentrated in vacuo. The product was purified by preparative HPLC. The appropriate fractions were collected, the acetonitrile evaporated under reduced pressure and the remaining aqueous solution was lyophilized.

reactant | Di-tert-butyl N-(tert-butoxycarbonyl)-4-[4-(3-fluoropropyl)benzyl]glutamate | 0.10 mmol, 50 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)CCCF)C(=O)OC(C)(C)C | C28H44FNO6
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[4-(3-Fluoropropyl)benzyl]-L-glutamic acid | FCCCC1=CC=C(CC(C[C@H](N)C(=O)O)C(=O)O)C=C1 | C15H20FNO4
